US07700593B2
To a solution of 1-(4-bromopyridin-2-yl) hydrazine (0.376 g, 2.00 mmol) in 10 mL of DCM at 0° C. was added isopropyl isocyanate (0.216 mL, 2.20 mmol). The heterogeneous mixture was allowed to warm up to RT and stir. A white precipitate appeared and after 1 h the solid was collected by filtration and washed with DCM to afford 1-(4-bromopyridin-2-yl)-4-isopropylsemicarbazide as a white solid. MS (ESI, pos. ion) m/z: 273.2 (M+1).

reactant | 1-(4-bromopyridin-2-yl) hydrazine | 2.00 mmol, 0.376 g | BrC1=CC(=NC=C1)NN | C5H6BrN3
reactant | isopropyl isocyanate | 2.20 mmol, 0.216 mL | C(C)(C)N=C=O | C4H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-bromopyridin-2-yl)-4-isopropylsemicarbazide | BrC1=CC(=NC=C1)NNC(=O)NC(C)C | C9H13BrN4O
